US08895313B2
4-(2-Methylimidazo[2,1-b][1,3]thiazol-6-yl)aniline
Prepared as described in the Nitro Reduction section using 2-methyl-6-(4-nitrophenyl) imidazo[2,1-b][1,3]thiazole (0.10 g, 0.386 mmol) and tin (II) chloride dihydrate (0.69 g, 3.09 mmol) in EtOH (15 ml) to give a pale orange solid (66 mg, 75%) after work-up and flash chromatography (1:1 DCM/EtOAc).

reactant | 2-methyl-6-(4-nitrophenyl) imidazo[2,1-b][1,3]thiazole | 0.386 mmol, 0.10 g | CC1=CN2C(S1)=NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H9N3O2S
reactant | tin (II) chloride dihydrate | 3.09 mmol, 0.69 g | O.O.[Sn](Cl)Cl
reactant | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | EtOH | 15 ml | CCO | C2H6O
product | 4-(2-Methylimidazo[2,1-b][1,3]thiazol-6-yl)aniline | 66 mg, 75% | CC1=CN2C(S1)=NC(=C2)C2=CC=C(N)C=C2 | C12H11N3S
